US06143848
2-Iodo-2-phenylethanol was synthesized as described in Golumbic, C. and Cottle, D. L. J. Am. Chem. Soc. 61, 996 (1939). An aqueous HI solution (81.7 grams, 54.7%) and 556 ml of water were added to a 1L reaction flask equipped with an addition funnel, which was cooled to zero degrees C. Styrene oxide (40 grams) and 50 grams of ethanol were added to the addition funnel. The styrene oxide solution was added dropwise to the flask over a 40-minute period during which a white precipitate was formed. Filtration over a fritted glass funnel followed by drying under vacuum for four hours yielded 69.8 grams of a white solid having a melting point of 62-66° C. The solid was dissolved in 560 ml of ethanol and poured into rapidly stirred water (2.5L containing 100 ml of 5% NaHSO3). The white precipitate was collected on a fritted glass funnel and dried in a vacuum oven at room temperature for four hours in the presence of P2O5 as a desiccant. The white solid (24 grams) had a melting point of 75.5-76° C. NMR analysis was consistent with the reports in the above-cited literature.

reactant | HI | 81.7 grams | I | HI
reactant | water | 556 ml | O | H2O
reactant | Styrene oxide | 40 grams | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | ethanol | 50 grams | C(C)O | C2H6O
product | 2-Iodo-2-phenylethanol | IC(CO)C1=CC=CC=C1 | C8H9IO
